US08404684B2
Step 4) [3-(3-Benzoyl-thioureido)-pyrazol-1-yl]-acetic acid tert-butyl ester
(3-Amino-pyrazol-1-yl)-acetic acid tert-butyl ester (1.05 g, 5.33 mmol) is added dropwise under argon to a stirred solution of benzoyl isothiocyanate (0.754 ml, 5.4 mmol). After stirring for 5 minutes the reaction mixture is poured onto water and the titled compound, a yellow precipitate, is collected and dried.

reactant | (3-Amino-pyrazol-1-yl)-acetic acid tert-butyl ester | 5.33 mmol, 1.05 g | C(C)(C)(C)OC(CN1N=C(C=C1)N)=O | C9H15N3O2
reactant | benzoyl isothiocyanate | 5.4 mmol, 0.754 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | [3-(3-Benzoyl-thioureido)-pyrazol-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=C1)NC(=S)NC(C1=CC=CC=C1)=O)=O | C17H20N4O3S
